US07049313B2
1-Bromo-4-hydroxy-thioxanthen-9-one
Thiosalicylic acid (20.0 g, 129.71 mmol) and 4-bromophenol (35.9 g, 207.53 mmol) were suspended in conc. H2SO4 (200 ml) and stirred for 48 hours. The red solution was slowly poured onto ice (500 ml) with vigorous stirring. The resulting yellow precipitate was filtered, and dried in a vacuum oven (50° C.) to give the title compound (24.23 g, 61%) as a yellow amorphous solid. m/z (LC-MS, ESP), RT=4.39 min, (M−−1)=305–307.

reactant | Thiosalicylic acid | 129.71 mmol, 20.0 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 4-bromophenol | 207.53 mmol, 35.9 g | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | H2SO4 | 200 ml | OS(=O)(=O)O | H2O4S
product | 1-Bromo-4-hydroxy-thioxanthen-9-one | 24.23 g, 61% | BrC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7BrO2S
